US04942246
Preparation of 1-ethyl-5-hydroxy-4-(3-methoxymethyl-2-methyl-4-methylthiobenzoyl)pyrazole
2.0 g of 3-methoxymethyl-2-methyl-4-methylthioiodobenzene, 1.46 g of 1-ethyl-5-hydroxypyrazole, 0.65 g of triethylamine, 4.04 g of anhydrous potassium carbonate, 0.28 g of dichloro(bistriphenylphosphine)palladium and 50 ml of 1,4-dioxane were charged into a 100 ml of Hastelloy autoclave equipped with a rotary stirrer, and the interior of autoclave was substituted with carbon monoxide, then, carbon monoxide was injected under a pressure of 10 kg/cm2. Then, the temperature was gradually raised under stirring, and the reaction was continued at 140° C. for 8 hours. The reaction mixture was left to cool, and then unreacted carbon monoxide was purged. The reaction solution was taken out, and the solvent was distilled off under reduced pressure. Then, water and chloroform were added, and the mixture was subjected to liquid separation. The aqueous layer was washed with chloroform, and insoluble substances were separated by filtration. Concentrated hydrochloric acid was added to bring the pH to a level of not higher than 1. Then, chloroform was added thereto, and the mixture was extracted twice. The organic layer was washed with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. Then, the solvent was distilled off under reduced pressure to obtain 1.75 g of a crude of the desired product (yield: 84%). Oily substance.

reactant | 3-methoxymethyl-2-methyl-4-methylthioiodobenzene | 2.0 g | COCC=1C(=C(C=CC1SC)I)C | C10H13IOS
reactant | 1-ethyl-5-hydroxypyrazole | 1.46 g | C(C)N1N=CC=C1O | C5H8N2O
reactant | potassium carbonate | 4.04 g | C([O-])([O-])=O.[K+].[K+]
reactant | carbon monoxide | [C]=O | CO
reactant | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | triethylamine | 0.65 g | C(C)N(CC)CC | C6H15N
product | 1-ethyl-5-hydroxy-4-(3-methoxymethyl-2-methyl-4-methylthiobenzoyl)pyrazole | yield: 84% | C(C)N1N=CC(=C1O)C(C1=C(C(=C(C=C1)C)COC)C)=S | C16H20N2O2S
